datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7][O:8][H:19])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([O:7][O:8][H:19])[C:4]([H:16])([H:17])[O:5]1.[O:6][H:18],71.9648
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])([H:7])[H:8])([H:5])([H:6])[H:9],141.4192
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:11])[H:12])([H:10])[O:18][O:19])([H:7])([H:8])[H:9],-2.244716
[C:0]([C:1]=[N:2][H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6][H:7],-3.740496
[C:0](=[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])[c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:10]>>[C:0]1([H:10])=[C:1]([c:4]2[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]2[H:18])[C:2]1([C:3]([H:12])[H:13])[H:11],85.253184
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22]([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])([H:30])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:22]([C:21]([H:30])([H:31])[H:32])([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])[H:11])([H:9])[H:10],26.9031
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:21])([H:4])[H:5].[C:9]([C:10]([C:11]([H:22])([H:23])[H:24])[c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])([H:18])([H:19])[H:20],28.0328
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14])[H:7])([H:5])[H:6],22.6354
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[C:3]([H:15])[H:16])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:12])[H:13])([H:9])([H:10])[H:11].[O:4][O:5][H:14],120.9176
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:18])([H:19])[H:20])([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21],25.9408
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[S:7])[H:8]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:6](=[S:7])[H:8],49.4967
[c:0]1([H:12])[c:1]([H:13])[c:2]([H:14])[c:3](-[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]2[H:19])[c:10]([H:20])[c:11]1[H:21]>>[H:19].[c:0]1([H:12])[c:1]([H:13])[c:2]([H:14])[c:3](-[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]2)[c:10]([H:20])[c:11]1[H:21],619.549984
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17])[H:10])([H:8])[H:9],97.4872
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])([H:19])[H:20])([H:17])[H:18])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[C:7]([H:19])([H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:10],78.1153
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14]([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:5])[H:6],49.6641
[C:0]([C:1](=[C:2]([H:12])[H:13])[C:3](=[C:4]([H:14])[H:15])[C:5](=[O:6])[O:7][O:8][C:9]([H:16])([H:17])[H:18])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1](=[C:2]([H:12])[H:13])[C:3](=[C:4]([H:14])[H:15])[C:5](=[O:6])[O:7]1.[O:8][C:9]([H:16])([H:17])[H:18],78.3663
